US07105671B2
A mixture of 2-(3,4-dichloro-phenyl)-3-(2-hydroxy-cyclopentyl)-propionic acid methyl ester (262.2 mg, 0.82 mmol) and 2-aminothiazole (165 mg, 1.65 mmol) in a solution of magnesium methoxide in methanol (7.4 wt. %, 2.60 mL, 1.81 mmol) was heated to 100° C. for 18 h. At this time, the reaction mixture was cooled to 25° C. and filtered through a pad of celite (ethyl acetate as eluent). The filtrate was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 75/25 ethyl acetate/hexanes) afforded the 2-(3,4-dichloro-phenyl)-3-(2-hydroxy-cyclopentyl)-N-thiazol-2-yl-propionamide (174 mg, 54.6%) as a white solid: mp 86–88° C.; EI-HRMS m/e calcd for C17H18Cl2N2O2S (M+Na)+ 407.0358, found 407.0361.

reactant | 2-(3,4-dichloro-phenyl)-3-(2-hydroxy-cyclopentyl)-propionic acid methyl ester | 0.82 mmol, 262.2 mg | COC(C(CC1C(CCC1)O)C1=CC(=C(C=C1)Cl)Cl)=O | C15H18Cl2O3
reactant | 2-aminothiazole | 1.65 mmol, 165 mg | NC=1SC=CN1 | C3H4N2S
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 1.81 mmol, 2.60 mL | CO | CH4O
product | 2-(3,4-dichloro-phenyl)-3-(2-hydroxy-cyclopentyl)-N-thiazol-2-yl-propionamide | 174 mg, 54.6% | ClC=1C=C(C=CC1Cl)C(C(=O)NC=1SC=CN1)CC1C(CCC1)O | C17H18Cl2N2O2S
